US09403807B2
Step A: N-(1-(3-(4-Chlorophenyl)-1-methoxypentan-3-yl)-1H-indol-4-yl)methanesulfonamide
To a mixture of 3-(4-chlorophenyl)-3-(4-(methylsulfonamido)-1H-indol-1-yl)pentyl methanesulfonate (10 mg, 0.02 mmol), as described in Example 40 Step I, in methanol (2 mL) was added CH3ONa (21 mg, 0.4 mmol) at room temperature. Then the mixture was heated to 40° C. for 2 h. The solution was quenched with saturated ammonium chloride solution (10 mL), and extracted with ethyl acetate. The organic layers were washed with brine, dried over sodium sulfate, filtered and evaporated. The residue was purified by Prep-HPLC (Mobile phase: acetonitrile/water (0.03% TFA)) to afford the title compound as a white solid. LC/MS m/z=421.1 [M+H]+.

reactant | 3-(4-chlorophenyl)-3-(4-(methylsulfonamido)-1H-indol-1-yl)pentyl methanesulfonate | 0.02 mmol, 10 mg | CS(=O)(=O)OCCC(CC)(N1C=CC2=C(C=CC=C12)NS(=O)(=O)C)C1=CC=C(C=C1)Cl | C21H25ClN2O5S2
reactant | CH3ONa | 0.4 mmol, 21 mg | CO[Na]
solvent | methanol | 2 mL | CO | CH4O
product | N-(1-(3-(4-Chlorophenyl)-1-methoxypentan-3-yl)-1H-indol-4-yl)methanesulfonamide | ClC1=CC=C(C=C1)C(CCOC)(CC)N1C=CC2=C(C=CC=C12)NS(=O)(=O)C | C21H25ClN2O3S
